US09278915B2
Intermediate 173: 4-[(4-{[(2Z)-2-(Methoxyimino)-2-phenylethyl]oxy}benzyl)oxy]benzaldehyde
To a stirring solution of (4-{[(2Z)-2-(methoxyimino)-2-phenylethyl]oxy}phenyl)methanol (10 g, 37 mmol) and 4-hydroxybenzaldehyde (4.5 g, 37 mmol) in THF (100 mL) was added triphenylphosphine (12.2 g, 46.5 mmol) and Diisopropyl azodicarboxylate (11.2 g, 55 mmol) at 0° C., then stirred at RT for 12 h. RM diluted with water and extracted with ethyl acetate. The organic layer was washed with brine solution, dried over Na2SO4 and concentrated to pale brown oil. Crude was purified by column (100-200 silica) using 8% ethyl acetate to get the titled compound as white solid (5 g, Yield: 36.2%). 1H NMR (300 MHz, CDCl3): δ 9.81 (s, 1H), 7.74-7.77 (d, 2H), 7.58-7.61 (m, 2H), 7.24-7.29 (m, 5H), 6.97-6.99 (d, 2H), 6.85-6.87 (d, 2H), 5.13 (s, 2H), 4.98 (s, 2H), 3.98 (s, 3H).

reactant | (4-{[(2Z)-2-(methoxyimino)-2-phenylethyl]oxy}phenyl)methanol | 37 mmol, 10 g | CO\N=C(/COC1=CC=C(C=C1)CO)\C1=CC=CC=C1 | C16H17NO3
reactant | 4-hydroxybenzaldehyde | 37 mmol, 4.5 g | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | triphenylphosphine | 46.5 mmol, 12.2 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | Diisopropyl azodicarboxylate | 55 mmol, 11.2 g | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 4-[(4-{[(2Z)-2-(Methoxyimino)-2-phenylethyl]oxy}benzyl)oxy]benzaldehyde | 5 g, Yield: 36.2% | CO\N=C(/COC1=CC=C(COC2=CC=C(C=O)C=C2)C=C1)\C1=CC=CC=C1 | C23H21NO4
